US06881846B2
25 g of dichloroacetyl chloride (1.25 eq.) was added to a solution of 50 g N-methylformamide (NMF) in chloroform at ambient temperature. The reaction mixture was washed with an aqueous solution of sodium hydrogencarbonate, dried with magnesium sulfate and the solvent was evaporated off in vacuum to give N-methyl-N-formyl-α,α-dichloroacetamide (86% yield) in high purity as a yellow oil. The chemical structure was confirmed by APCI-MS, FT-IR, 1H and 13C magnetic resonance spectroscopy.

reactant | dichloroacetyl chloride | 25 g, 1.25 eq. | ClC(C(=O)Cl)Cl | C2HCl3O
reactant | N-methylformamide | 50 g | CNC=O | C2H5NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-methyl-N-formyl-α,α-dichloroacetamide | 86% yield | CN(C(C(Cl)Cl)=O)C=O | C4H5Cl2NO2
